US08975252B2
Pyridine (272 μL) and methyl chloroformate (130 μL) were added to a solution of tert-butyl {[4-(2-aminoethoxy)-2-naphthyl]methyl}cyclopropylcarbamate (400 mg) in chloroform (4.0 ml) under ice-cooling and the mixture was stirred at room temperature for an hour. Water was added to the reaction mixture and it was extracted with chloroform. The organic layer was washed with a saturated aqueous solution of sodium bicarbonate and saturated brine successively, dried over sodium sulfate and concentrated in vacuo. The resulted residue was purified with NH-silica gel column chromatography (eluting solvent: n-hexane to n-hexane/ethyl acetate=2/1) to give methyl {2-[(3-{[(tert-butoxycarbonyl)(cyclopropyl)amino]methyl}-1-naphthyl)oxy]ethyl}carbamate (418 mg) as a colorless oil.

reactant | Pyridine | 272 μL | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 130 μL | ClC(=O)OC | C2H3ClO2
reactant | tert-butyl {[4-(2-aminoethoxy)-2-naphthyl]methyl}cyclopropylcarbamate | 400 mg | NCCOC1=CC(=CC2=CC=CC=C12)CN(C(OC(C)(C)C)=O)C1CC1 | C21H28N2O3
reactant | Water | O | H2O
solvent | chloroform | 4.0 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl {2-[(3-{[(tert-butoxycarbonyl)(cyclopropyl)amino]methyl}-1-naphthyl)oxy]ethyl}carbamate | 418 mg | C(C)(C)(C)OC(=O)N(C1CC1)CC=1C=C(C2=CC=CC=C2C1)OCCNC(OC)=O | C23H30N2O5
